US08431713B2
Step G: Preparation of tert-butyl 4-(2-(5-bromo-4-(2-methylpyridin-3-yloxy)pyridin-2-ylamino)thiazol-4-yl)piperidine-1-carboxylate:
1-(5-Bromo-4-(2-methylpyridin-3-yloxy)pyridin-2-yl)thiourea (1.48 g, 4.4 mmol), tert-butyl 4-(2-bromoacetyl)piperidine-1-carboxylate (1.41 g, 4.60 mmol, prepared from 1-(tert-butoxycarbonyl)piperidine-4-carboxylic acid utilizing the procedure from Example 1, steps A-C), and triethylamine (0.93 mL, 6.56 mmol) were diluted in ethanol (130 mL). The reaction was stirred at 70° C. overnight and then concentrated. Water was added and the solution was extracted with ethyl acetate, dried and concentrated to give the title compound (2.37 g, 94% yield) as light yellow solid.

reactant | 1-(5-Bromo-4-(2-methylpyridin-3-yloxy)pyridin-2-yl)thiourea | 4.4 mmol, 1.48 g | BrC=1C(=CC(=NC1)NC(=S)N)OC=1C(=NC=CC1)C | C12H11BrN4OS
reactant | tert-butyl 4-(2-bromoacetyl)piperidine-1-carboxylate | BrCC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C12H20BrNO3
reactant | 1-(tert-butoxycarbonyl)piperidine-4-carboxylic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | triethylamine | 6.56 mmol, 0.93 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 130 mL | C(C)O | C2H6O
product | tert-butyl 4-(2-(5-bromo-4-(2-methylpyridin-3-yloxy)pyridin-2-ylamino)thiazol-4-yl)piperidine-1-carboxylate | 2.37 g, 94% yield | BrC=1C(=CC(=NC1)NC=1SC=C(N1)C1CCN(CC1)C(=O)OC(C)(C)C)OC=1C(=NC=CC1)C | C24H28BrN5O3S
